US06437009B1
N-2-Ethylhexyl tartarimide was prepared by the reaction of 2-ethylhexyl amine with DL-tartaric acid. The procedure described in U.S. Pat. No. 4,237,022 was followed on a smaller scale. DL-Tartaric acid (10.034 g, 66.853 mmole) and toluene (17.328 g, 188.06 mmole) were weighed into a 250 mL 3-necked round-bottomed flask equipped with a teflon-coated magnetic stir bar. A Dean-Stark trap was placed in the center neck, and a condenser was placed in the neck of the Dean-Stark trap. A nitrogen inlet adapter was placed on the condenser. In the left neck was placed a pressure-equalizing addition funnel containing 2-ethylhexyl amine (8.639 g, 66.84 mmole) and toluene (6.092 g, 66.12 mmole) added to ensure complete transfer of the amine). In the right neck was placed a rubber septum which held a thermocouple. The apparatus was purged with nitrogen for 10-15 minutes and then heated to ˜100° C.

reactant | 2-ethylhexyl amine | C(C)C(CN)CCCC | C8H19N
reactant | DL-tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | DL-Tartaric acid | 66.853 mmole, 10.034 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | toluene | 188.06 mmole, 17.328 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-ethylhexyl amine | 66.84 mmole, 8.639 g | C(C)C(CN)CCCC | C8H19N
reactant | toluene | 66.12 mmole, 6.092 g | C1(=CC=CC=C1)C | C7H8
product | N-2-Ethylhexyl tartarimide | CCN1C(C(O)(C(O)C1=O)CCCCCC)=O | C12H21NO4
